Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ yo F with h/o peripartum cardiomyopathy, viral 
pericarditis, and potural tachycardia p/w 3 days squeezing 
substernal CP, SOB, tachycardia with activity, rated at ___ 
which radiates up neck at times, associated with nausea and 
lightheadedness. Patient dx with peripartum cardiomyopathy ___ 
years ago and was symptom free for past ___ years until about 8 
months ago when she developed viral pericarditis. Patient 
developed waxing and waning sx of exertional CP, postural 
tachycardia, SOB. When severe, patient describes not being able 
to stand for more than 3 minutes at a time or HR would climb 
into the 120s, 140s, and beyond. She was unable to perform ADLs 
and routine housework, and has not been able to work these past 
several months. During the past couple of months, patient noted 
clinical improvement, being able to exercise on a stationary 
bike and maintain a standing position for 9 minutes without CP, 
tachycardia, hypotension. However, three weeks ago, patient 
began to worsen again and culminated in the sx described above 
for the last 3 days. She was seen at her PCP's office for these 
complaints yesterday and was sent to the ED. 

Inital VS upon presentation to the ED were: 98.1 88 ___ 
100%. Exam was nonfocal. Labs were unrevealing (negative 
troponin). CXR was normal. She was given ASA 325mg. Per ED 
report, the patient was discussed with cardiology who requested 
admission. 

Patient is currently stable and symptom free while sitting in 
bed. Her last episode of chest pain was late last night/early 
this morning. 
 
Past Medical History:
-Peripartum Cardiomyopathy - developed ___ years ago, resolved ___ 
years ago
-Viral Pericarditis - 8 months ago, w cardiac sx such as 
exertional chest pain & reactived positional orthostatic 
tachycardia from cardiomyopathy years ago.
-Migraines

 
Social History:
___
Family History:
Patient is adopted. She notes that her father had a heart attack 
when he was in his ___, had several more MIs and various 
procedures; died of a fatal MI in his ___. Patient is unaware 
of her biological mother's medical hx.
 
Physical Exam:
VS: 97.9   114/74   83   18   99%RA
Constitutional: Comfortable, sitting in bed. Mood appropriate.
HEENT: NC/AT, PERRL, EOMI, OP clear
Neck: supple, No JVD, LAD, bruits
Chest: CTAB
Cardiovascular: RRR, Normal S1, S2
Abdominal: Soft, Nontender, Nondistended
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash, Warm and dry
Neuro: Speech fluent, non-focal
Psych: Normal mood, Normal mentation
___: No petechiae

 
Pertinent Results:
___ 08:45PM   

WBC-7.1 RBC-4.11* HGB-13.5 HCT-36.4 MCV-89 MCH-32.9* MCHC-37.2* 
RDW-12.6 PLT COUNT-240 NEUTS-68.4 ___ MONOS-4.1 EOS-0.5 
BASOS-0.9

GLUCOSE-99 UREA N-11 CREAT-0.7 SODIUM-141 POTASSIUM-3.7 
CHLORIDE-109* TOTAL CO2-21* ANION GAP-15

proBNP-29

D-DIMER-252

___ 08:45PM   cTropnT-<0.01
___ 04:30AM   cTropnT-<0.01 proBNP-30

URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG GLUCOSE-NEG KETONE-NEG 
BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 LEUK-NEG UCG-NEGATIVE
.
EKG: sinus at rate of 90, normal intervals, no st changes.
.
CXR: 
Normal heart, lungs, hila, mediastinum and pleural surfaces. 
Normal Chest.  

 
Brief Hospital Course:
___ YO F w h/o viral cardiomyopathy in the setting of pregnancy, 
viral pericarditis, and POTS p/w chest pain (___), occas 
radiating to neck and jaw, sinus tachcardia, & SOB, admitted for 
evaluation and ruled out for ACS/ischemia.
.  
# CORONARIES: Cardiac enzymes negative x3. No risk factors other 
than family hx. Patient will return for stress echo on ___, 
___ as outpatient to assess hemodynamics. 
.  
# Postural orthostatic tachycardia syndrome (POTS): Patient's 
symptoms thought to be caused by hypovolemia and was encourated 
to increase PO hydration and vaoid caffeine. Florinef 0.1mg PO 
daily was started and patient felt better. Patient is to follow 
up with Dr. ___ completion of stress ECHO.
.  
# PUMP/Cardiomyopathy: may be having sequelae from viral 
cardiomyopathy from years ago. Rest & Ibuprofen 800mg prn chest 
pain.
.  
# Migraines: currently none. Cont topamax 125mg PO daily.
.
.
Transitional issues:
- Patient has stress ECHO on ___ and to assess hemodynamics 
and will follow up with Dr. ___ as an outpatient for 
symptoms as well as new medication initiation (Florinef 0.1mg PO 
daily).
.
CODE: Full (presumed) 
.  

 
Medications on Admission:
Topamax 125mg PO daily.
 
Discharge Medications:
1. fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. ibuprofen 400 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours) as needed for chest pain, headache.
Disp:*30 Tablet(s)* Refills:*0*
3. topiramate  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Postural Orthostatic Tachycardia
Chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for chest pain and fast heart 
rates. Your blood work and EKG were normal. You were started on 
a medication called florinef which leads to increased salt 
absorption and, therefore, increased blood pressure and less 
variability in blood pressure and heart rate with positional 
changes.

You were also set up for a stress test with echocardiogram as 
listed below. Please call Dr ___ office on ___ to obtain 
the results of your stress test and schedule an appointment with 
Dr ___.
 
Followup Instructions:
___